US06063806
1-Acetyl-3-(2-bromoethyl)-4,6-dimethylindoline (5.4 g), NaCN (3.7 g) and 18-crown-6 (480 mg) were suspended in CH3CN (50 ml), and the suspension was refluxed for 15 hr. CH3CN was evaporated under reduced pressure. CHCl3 (100 ml) was added, and the mixture was washed with water and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 4.5 g of 1-acetyl-3-(2-cyanoethyl)-4,6-dimethylindoline.

reactant | 1-Acetyl-3-(2-bromoethyl)-4,6-dimethylindoline | 5.4 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCBr | C14H18BrNO
reactant | NaCN | 3.7 g | [C-]#N.[Na+]
solvent | CH3CN | 50 ml | CC#N | C2H3N
catalyst | 18-crown-6 | 480 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 1-acetyl-3-(2-cyanoethyl)-4,6-dimethylindoline | 4.5 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCC#N | C15H18N2O
